US07829584B2
5-chloro-nicotinonitrile
A mixture of 3,5-dichloropyridine (4.23 g, 28.6 mmol), CuCN (3.07 g, 34.3 mmol), and argon-bubbled NMP (8 mL) was placed in a 40 mL scintillation vial, flushed with argon for 1 min, and then quickly capped and stirred under argon at 210° C. for 3 h. The dark brown easily stirred solution was allowed to cool somewhat, and was then poured into concentrated NH4OH (50 mL) on an ice bath, and stirred vigorously for 5 min. DCM (50 mL) was added, the bilayer was stirred for an additional 5 min, and then filtered. The lower dark amber organic layer was saved, and the dark blue aqueous layer was extracted with DCM (2×50 mL). The organic layers were combined and washed with NH4OH (1×30 mL), 4 M NaCl (1×30 mL), dried (Na2SO4), and concentrated to give an amber oil heavily contaminated with NMP. Silica flash chromatography of this residue (90 mm×6″ column; 6:1 hex/EtOAc eluent; 100 mL fractions; fractions 15-19 combined) afforded, after rotary evaporation at 40° C., the title compound as brilliant white microcrystals (891 mg, 22%).

reactant | 3,5-dichloropyridine | 28.6 mmol, 4.23 g | ClC=1C=NC=C(C1)Cl | C5H3Cl2N
reactant | CuCN | 34.3 mmol, 3.07 g | C(#N)[Cu]
reactant | NMP | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-chloro-nicotinonitrile | ClC=1C=NC=C(C#N)C1 | C6H3ClN2
